US07226938B2
(Hexahydro-pyrrolo[1,2-a]pyrazin-2-yl)-(6H-thieno[2,3-b]pyrrol-5-yl)-methanone
6H-Thieno[2,3-b]pyrrole-5-carboxylic acid (60 mg, 0.35 mmol) was coupled with octahydro-pyrrolo[1,2-a]pyrazine according to Procedure C to provide the title compound (34 mg, 35%) as a light yellow solid. TLC (silica, 10% MeOH/CH2Cl2): Rf=0.4. MS (electrospray): exact mass calculated for C14H17N3OS, 275.11; m/z found, 276.2 [M+H]+. 1H NMR (CDCl3, 400 MHz): 11.1 (br s, 1H), 6.96 (d, J=5.4 Hz, 1H), 6.87 (d, J=5.4 Hz, 1H), 6.71 (d, J=1.9 Hz, 1H), 4.84 (d, J=12.2 Hz, 1H), 4.70 (d, J=12.2 Hz, 1H), 3.30-2.90 (m, 4H), 2.30-1.40 (m, 7H).

reactant | 6H-Thieno[2,3-b]pyrrole-5-carboxylic acid | 0.35 mmol, 60 mg | S1C=CC2=C1NC(=C2)C(=O)O | C7H5NO2S
reactant | octahydro-pyrrolo[1,2-a]pyrazine | C1C2N(CCN1)CCC2 | C7H14N2
product | (Hexahydro-pyrrolo[1,2-a]pyrazin-2-yl)-(6H-thieno[2,3-b]pyrrol-5-yl)-methanone | 34 mg, 35% | C1C2N(CCN1C(=O)C1=CC3=C(N1)SC=C3)CCC2 | C14H17N3OS
